US05688803
A mixture of 6.0 g (27.7 mmol) of 2-amino-5-chloro-4-nitrobenzoic acid and 10.0 g (0.166 mol) of urea was heated at 180° C. for 2.5 hrs. The resulting brown mass was boiled with 200 ml of water. Subsequently, it was filtered off, washed with water and with acetone and dried in a vacuum. 4.35 g (65%) of 2,4-dioxo-6-chloro-7-nitro-1,2,3,4-tetrahydroquinazoline were obtained as a dark brown powder;

reactant | 2-amino-5-chloro-4-nitrobenzoic acid | 27.7 mmol, 6.0 g | NC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])Cl | C7H5ClN2O4
reactant | urea | 0.166 mol, 10.0 g | NC(=O)N | CH4N2O
solvent | water | 200 ml | O | H2O
product | 2,4-dioxo-6-chloro-7-nitro-1,2,3,4-tetrahydroquinazoline | 4.35 g, 65% | O=C1NC2=CC(=C(C=C2C(N1)=O)Cl)[N+](=O)[O-] | C8H4ClN3O4
